### PR TITLE
feat: lemmas about iterator collectors

### PR DESCRIPTION
**Pull request by datokrat**
This PR provides simple lemmas about `toArray`, `toList` and `toListRev` for the iterator library.

It also changes the definition of `Iter` and `IterM` so that they aren't equal anymore and in particular not definitionally equal. While it was very convenient to have them be definitionally equal when working with dependent code, it was also confusing and annoying that one would sometimes end up with something like `it.toList = IterM.toList it`, where `it : Iter β`.

### CODE REVIEW

File: src/Std/Data/Iterators/Basic.lean [hunk 1]
```diff
@@ -109,31 +101,43 @@ def x := [1, 2, 3].iter
...
 identity monad `Id`.
 -/
 def Iter.toIterM {α : Type w} {β : Type w} (it : Iter (α := α) β) : IterM (α := α) Id β :=
-  it
+  ⟨it.internalState⟩
 
 /--
 Converts a monadic iterator (`IterM Id β`) over `Id` into a pure iterator (`Iter β`).
 -/
 def IterM.toPureIter {α : Type w} {β : Type w} (it : IterM (α := α) Id β) : Iter (α := α) β :=
```
Comment (TwoFX) [inline src/Std/Data/Iterators/Basic.lean:118]: Should this just be called `toIter`?

File: src/Std/Data/Iterators/Basic.lean [hunk 2]
```diff
@@ -169,6 +173,27 @@ def IterStep.successor : IterStep α β → Option α
...
+with the result of the application of `f`.
+-/
+@[always_inline, inline]
+def IterStep.mapIterator {α' : Type u'} (f : α → α') : IterStep α β → IterStep α' β
+  | .yield it out => .yield (f it) out
+  | .skip it => .skip (f it)
+  | .done => .done
+
+@[simp]
+theorem IterStep.mapIterator_mapIterator {α' : Type u'} {f : α → α'} {g : α' → α}
```
Comment (TwoFX) [inline src/Std/Data/Iterators/Basic.lean:187]: Why not
```suggestion
theorem IterStep.mapIterator_mapIterator {α' : Type u'} {f : α → α'} {g : α' → α''}
```

File: src/Std/Data/Iterators/Basic.lean [hunk 3]
```diff
@@ -203,6 +228,37 @@ def PlausibleIterStep.done {IsPlausibleStep : IterStep α β → Prop}
...
+cases step
+```
+
+Using `casesHelper`, the case distinction can be done more ergonomically.
+
+```lean
+cases step.casesHelper
+```
+-/
+def PlausibleIterStep.casesHelper {IsPlausibleStep : IterStep α β → Prop} :
```
Comment (TwoFX) [inline src/Std/Data/Iterators/Basic.lean:256]: I think the intended way to do this is to define a custom `casesOn` for `PlausibleIterStep` and tag it with `@[cases_eliminator]`. Then `cases step` will do the right thing and you don't need `casesHelper`.

File: src/Std/Data/Iterators/Consumers/Access.lean [hunk 4]
```diff
@@ -0,0 +1,52 @@
...
+namespace Std.Iterators
+
+/--
+If possible, takes `n` steps with the iterator `it` and
+returns the `n`-th emitted value, or `none` if `it` finished
+before emitting `n` values.
+
+This function requires a `Productive` instance proving that the iterator will always emit a value
+after a finite number of skips. If the iterator is not productive or such an instance is not
+available, consider using `it.allowNontermination.toArray` instead of `it.toArray`. However, it is
```
Comment (TwoFX) [inline src/Std/Data/Iterators/Consumers/Access.lean:18]: 1. Presumably you didn't want `toArray` here.
2. I guess in this specific case you could unify the two functions using `partial_fixpoint`? Not sure if it's worth the trouble.
3. Not sure how much I love `seek`. Have you considered `atIdx?` like for tree maps?

File: src/Std/Data/Iterators/Lemmas/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,30 @@
...
+
+namespace Std.Iterators
+
+/--
+Induction principle for finite iterators: One can define a function `f` that maps every
+iterator `it` to an element of `motive it` by defining `f it` in terms of the values of `f` on
+the plausible successors of `it'.
+-/
+@[specialize]
+def Iter.induct {α β} [Iterator α Id β] [Finite α Id]
```
Comment (TwoFX) [inline src/Std/Data/Iterators/Lemmas/Basic.lean:17]: Should the name contain `Finite` somewhere?

File: src/Std/Data/Iterators/Lemmas/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,30 @@
...
+  (motive : Iter (α := α) β → Sort x)
+  (step : (it : Iter (α := α) β) →
+    (ih_yield : ∀ {it' : Iter (α := α) β} {out : β},
+      it.IsPlausibleStep (.yield it' out) → motive it') →
+    (ih_skip : ∀ {it' : Iter (α := α) β}, it.IsPlausibleStep (.skip it') → motive it' ) →
```
Comment (TwoFX) [inline src/Std/Data/Iterators/Lemmas/Basic.lean:22]:
```suggestion
    (ih_skip : ∀ {it' : Iter (α := α) β}, it.IsPlausibleStep (.skip it') → motive it') →
```

File: src/Std/Data/Iterators/Lemmas/Consumers/Collect.lean [hunk 7]
```diff
@@ -0,0 +1,111 @@
...
+  generalize it.toIterM.step = step
+  cases step.run.casesHelper <;> simp
+
+theorem Iter.getElem?_toList_eq_seekIdx? {α β}
+    [Iterator α Id β] [Finite α Id] [IteratorCollect α Id] [LawfulIteratorCollect α Id]
+    {it : Iter (α := α) β} {k : Nat} :
+    it.toList[k]? = it.seekIdx? k := by
+  revert k
+  induction it using Iter.induct with | step it ihy ihs =>
+  intro k
```
Comment (TwoFX) [inline src/Std/Data/Iterators/Lemmas/Consumers/Collect.lean:95]: Is this not just 
```suggestion
  induction it using Iter.induct generalizing k with | step it ihy ihs =>
```

File: src/Std/Data/Iterators/Lemmas/Consumers/Collect.lean [hunk 8]
```diff
@@ -0,0 +1,111 @@
...
+    it.toList.toArray = it.toArray := by
+  simp only [toArray_eq_toArray_toIterM, toList_eq_toList_toIterM, ← IterM.toArray_toList,
+    Id.map_eq]
+
+theorem Iter.toListRev_eq {α β} [Iterator α Id β] [Finite α Id] [IteratorCollect α Id]
+    [LawfulIteratorCollect α Id] {it : Iter (α := α) β} :
+    it.toListRev = it.toList.reverse := by
+  simp [Iter.toListRev_eq_toListRev_toIterM, Iter.toList_eq_toList_toIterM, IterM.toListRev_eq]
+
+theorem Iter.toArray_of_step {α β} [Iterator α Id β] [Finite α Id] [IteratorCollect α Id]
```
Comment (TwoFX) [inline src/Std/Data/Iterators/Lemmas/Consumers/Collect.lean:58]: I'm not really sold on using `of` to describe something in the goal. Would `toArray_eq_match_step` work?

File: src/Std/Data/Iterators/Consumers/Access.lean (hunk 4 above)
Comment (datokrat) [reply src/Std/Data/Iterators/Consumers/Access.lean:18]: I fear that `atIdx?` might falsely suggest that this is an efficient lookup, but I agree that `seek` isn't nice as well. `List` would be the perfect role model, but unfortunately `List` doesn't have `seekIdx?`/`atIdx?` either.

Or how about some more verbose name like `atIdxSlow?`? Another alternative is to make this completely noncomputable if we don't expect this to be of any use for programming. The main use case for it is that it's useful for proofs.

I think I tend towards `atIdxSlow?`.

File: src/Std/Data/Iterators/Lemmas/Consumers/Collect.lean (hunk 7 above)
Comment (datokrat) [reply src/Std/Data/Iterators/Lemmas/Consumers/Collect.lean:95]: Neat. I tried `induction it generalizing k using Iter.induct` and gave up after that didn't work.

File: src/Std/Data/Iterators/Lemmas/Consumers/Collect.lean (hunk 8 above)
Comment (datokrat) [reply src/Std/Data/Iterators/Lemmas/Consumers/Collect.lean:58]: I like it!

File: src/Std/Data/Iterators/Consumers/Access.lean (hunk 4 above)
Comment (datokrat) [reply src/Std/Data/Iterators/Consumers/Access.lean]: `partial_fixpoint` won't work here either -- note that we need to assume `Productive` so that the function terminates.

Comment (TwoFX) [reply src/Std/Data/Iterators/Consumers/Access.lean]: Works for me.

**Review by TwoFX — APPROVED** [review]
